US08859566B2
To a solution of 8-(4-benzyloxy-phenyl)-2-chloro-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (0.25 g, 0.00048 mol) in DMF:water nil), 10% Pd/C (0.130 g) and ammonium formate (0.66 g, 0.010 mol) were added and refluxed at 80° C. for 2 hours. The mixture was cooled and filtered through celite bed, solvent was removed and the residue was diluted with water (10 ml), acidified with citric acid and extracted with ethyl acetate (3×10 ml). The organic layer was washed with brine (2×15 ml). It was dried over Na2SO4 and the solvent was removed to obtain pale yellow solid of 8-(4-hydroxy-phenyl)-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (0.153 g, 80%).

reactant | 8-(4-benzyloxy-phenyl)-2-chloro-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.00048 mol, 0.25 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC=2N=C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)Cl | C27H33ClN4O3Si
reactant | water | O | H2O
reactant | ammonium formate | 0.010 mol, 0.66 g | C(=O)[O-].[NH4+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Pd/C | 0.130 g | [Pd] | Pd
product | 8-(4-hydroxy-phenyl)-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.153 g, 80% | OC1=CC=C(C=C1)C1=NC=2N=CN(C(C2N1COCC[Si](C)(C)C)=O)CCC | C20H28N4O3Si
